Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
subacute worsening of gait, encephalopathy 
 
Major Surgical or Invasive Procedure:
N/a

 
History of Present Illness:
HPI: Ms. ___ is a ___ woman with HLD who presents
with subacute worsening of gait. She is a poor historian, and
husband is not at bedside. She says that she walks with a walker
at baseline. About 10 days ago, she was sitting in the middle of
the room on a rug when she fell. It did not seem to be a
mechanical fall as she did not trip over something. She did not
hit her head and did not lose consciousness. Since then, she has
had some trouble reaching for things accurately.

At baseline, she needs help with all her ADLs. She needs to
constantly use her walker. Husband does the bills and grocery
shopping but she makes the grocery lists. She helps with cooking
but her husband does most of it.

She presented to clinic today for follow-up with Dr. ___. 
She
endorsed urinary incontinence at her clinic visit and needs to
wear Depends. Unable to say whether she has incontinence because
she cannot get to the bathroom in time vs cannot feel when she
needs to empty her bladder. Does have a history of urinary
urgency for which she was previously on Vesicare. This was
stopped given her memory complaints.  

No recent illnesses. 

 
Past Medical History:
1. GERD
2. urinary incontinence
3. diverticulitis
4. anxiety d/o
5. restless leg syndrome
6. hypercholesterolemia
7. osteoarthritis of back
 
Social History:
___
Family History:
Nil of note.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals:  T: 97.8F  HR: 94  BP: 157/98  RR: 16  SaO2: 98% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to name, hospital, and
summer. Does not know year. Has some trouble relating history.
Inattentive, unable to name months of year backwards. Speech is
fluent with full sentences, intact repetition to simple concrete
concepts only, and intact verbal comprehension. Naming intact to
high frequency objects. No paraphasias. No dysarthria. Normal
prosody. No apraxia. No evidence of hemineglect. No left-right
confusion. Able to follow both midline and appendicular 
commands.

- Cranial Nerves: PERRL 3->2 brisk. VF appeared full to finger
wiggling but pt unable to count number of fingers in RLQ in R
eye. EOMI, no nystagmus on primary or lateral gaze. No skew.
?overshoot on saccades bilaterally. V1-V3 without deficits to
light touch bilaterally. No facial movement asymmetry. Hearing
intact to finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

   [Delt] [Bic] [Tri] [ECR] [FEx] [IO] [IP] [Quad] [Ham] [TA]
[Gas]
 L   5     5     4+     5     5    4    4+     5     5    5     
5
 R   5     5     4+     5     5    4    4+     5     4+   5     
5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  3+    3+     3+      3+       2
     R  3+    3+     3+      3+       2  

Plantar response flexor on right, upgoing on left. 

- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing on 
right
but present on left. +cerebellar rebound R>L, difficulty with 
HKS
on R, overshoot with mirror testing on R, +truncal ataxia
(tendency to fall backwards)

- Gait: unsteady on standing, has tendency to fall backwards,
wide based

DISCHARGE PHYSICAL EXAM 
Vitals: 
Tmax 98.4/Tc 97.5; BP 136-159/70-98, HR 89-112, RR 18, O2 95% RA
Gen: awake, alert, somewhat tearful, comfortable appearing, non 
toxic
HEENT: normocephalic atraumatic
Pulm: breathing non labored
CV: warm, well perfused
Abdomen: soft, NT/ND 
Extremities: chronic venous stasis changes, no edema

Neurologic:
-MS: awake, alert, oriented to self, ___, hospital and 
situation. Not oriented to year, not to ___. Inattentive, 
difficulty completing days of the week backwards. Speech is 
fluent with no dysarthria. No hemineglect.
-CN: gaze conjugate, EOMI no nystagmus, face symmetric, tongue 
midline, palate elevates symmetrically 
-Motor: normal bulk and tone. No pronator drift. No tremor or 
asterixis.  
  [Delt] [Bic] [Tri] [ECR] [FEx] [IO] [IP] [Quad] [Ham] [TA]
[Gas]
 L   5     5     4+     5     5    4    4+     5     5    5     
5
 R   5     5     4+     5     5    4    4+     5     4+   5     
5
 
-- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  3    3      3        3       2
     R  3    3      3       3       2  

Plantar response flexor bilaterally. 

- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Normal heel to shin bilaterally. 
- Gait: limited assessment due to patient fatigue, 
deconditioning and inattention. Grossly normal stance, narrow 
based, variable stride length, no sway. 
 
Pertinent Results:
___ 06:10AM BLOOD WBC-8.2 RBC-4.41 Hgb-13.5 Hct-47.0* 
MCV-107*# MCH-30.6 MCHC-28.7* RDW-12.2 RDWSD-48.2* Plt ___
___ 10:40PM BLOOD Neuts-46.8 ___ Monos-11.9 Eos-3.8 
Baso-0.5 Im ___ AbsNeut-4.80 AbsLymp-3.76* AbsMono-1.22* 
AbsEos-0.39 AbsBaso-0.05
___ 06:10AM BLOOD Glucose-103* UreaN-8 Creat-0.5 Na-141 
K-4.7 Cl-105 HCO3-21* AnGap-20
___ 05:40AM BLOOD ALT-14 AST-17 LD(LDH)-171 AlkPhos-69 
TotBili-0.5
___ 05:40AM BLOOD cTropnT-<0.01
___ 10:40PM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD Calcium-9.3 Phos-4.7* Mg-1.8
___ 03:01PM BLOOD %HbA1c-5.1 eAG-100
___ 05:40AM BLOOD Triglyc-76 HDL-42 CHOL/HD-3.4 LDLcalc-87
___ 05:40AM BLOOD TSH-1.2
___ 10:40PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
#Gait instability: Admitted to the hospital with subacute 
worsening of gait, encephalopathy and generalized malaise. 
Patient's husband was particularly concerned about patient's 
shuffling gait, and believe she is not safe for home.

Exam was notable for inattention, deficits with short term 
memory, and symmetric, mild lower extremity weakness in both 
proximal (psoas) and distal (___) muscle groups bilaterally with 
hyper-reflexia. Workup notable for positive UTI, MRI cervical 
spine with degenerative changes, MRI brain with evidence of 
atrophy and chronic bilateral basal ganglia, cerebellar and left 
occipital lobe infarcts. No evidence of acute infarction. No 
evidence of cord compression on cervical spine MRI.  

Given evidence of chronic infarcts, patient was started on baby 
aspirin. For stroke workup, A1c was 5.1, TSH normal, and lipid 
panel which was unremarkable. Troponins x2 were negative. 
Patient was monitored on telemetry and remained in normal sinus 
rhythm.  Patient's blood pressure allowed to autoregulate with 
goal SBP <190, and DBP<120. Her systolic blood pressures ranged 
130s-150s. No antihypertensives were added to prevent over-rapid 
correction of blood pressure. Patient was evaluated by ___ who 
recommended discharge to rehab facility to improve conditioning. 


#Urinary Tract Infection: On admission, patient complained of 
dysuria, urinary frequency and hesitancy. Urinalysis notable for 
elevated WBC, nitrites and bacteruria. Urine culture grew E. 
coli.  Given uncomplicated UTI patient completed a 3 day course 
of ceftriaxone.  By discharge, patient's urinary symptoms had 
improved and her mental status had slightly improved.  

# Oncology: Per husband, Mrs. ___ was worked up at ___ 
___ for an irregularity in her blood counts. Her work-up has 
included blood tests and a bone marrow biopsy. They were told 
that she has a low-grade lymphoma that does not require any 
treatment or follow-up. Her primary care doctor is aware and 
following in conjunction with her physician at ___.

TRANSITIONAL ISSUES: 
-Discharged with baby aspirin. Already on a statin. Defer 
starting antihypertensive agent given that in-house SBPs ranged 
130s-low 150s, and to defer over-rapid correction of blood 
pressure.
-Already completed 3 day course of ceftriaxone to treat 
uncomplicated UTI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Celebrex ___ mg oral DAILY 
2. Omeprazole 20 mg PO DAILY 
3. TraMADol 200 mg PO DAILY 
4. Simvastatin 40 mg PO QPM 
5. PredniSONE 2.5 mg PO DAILY 
6. LevETIRAcetam 500 mg PO QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Celecoxib 400 mg ORAL DAILY  
3.  LevETIRAcetam 500 mg PO QHS  
4.  Omeprazole 20 mg PO DAILY  
5.  PredniSONE 2.5 mg PO DAILY  
6.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
TIA or Stroke (Ischemic or Hemorrhagic)

TIA or Stroke (Ischemic or Hemorrhagic)

Chronic Strokes (Ischemic or Hemorrhagic)
Gait instability 
Lower extremity weakness 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital for unsteadiness with walking, 
weakness in your legs, and feeling more confused than usual. To 
look into your symptoms, we did a number of tests.  One of them 
returned positive for a urinary tract infection, which may have 
been contributing to your feeling confused.  We also did an MRI 
of your brain, which showed signs of old strokes. An MRI of your 
cervical spine (neck) revealed some signs of arthritis as well.  
Overall, we think these numerous factors caused your weakness 
and unsteadiness. You completed a treatment course for urinary 
treat infection.  Moving forward it will be important for you to 
continue to build up your strength at a rehab facility.  

It was a pleasure taking care of you.

Sincerely,
Your ___ care team  
 
Followup Instructions:
___